US07504393B2
(a) 4-Formyl-3-hydroxy-phenyl dimethylcarbamate
To a suspension of sodium hydride (5.74 g, 239 mmol), which was prepared free from mineral oil by washing with hexane, in dimethylformamide (100 ml) was added 2,4-dihydroxybenzaldehyde (15.0 g, 109 mmol) at 0° C. with stirring, and the resulting mixture was stirred for 30 minutes at 0° C. under a nitrogen atmosphere. Subsequently, N,N-dimethylcarbamoyl chloride (10.1 ml, 110 mmol) was added at 0° C., and the resulting mixture was stirred for 2 hours at room temperature under a nitrogen atmosphere. After stirring, water (300 ml) was added to the reaction mixture, and the resulting mixture was washed with ethyl acetate (200 ml×1). The aqueous layer was acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate (200 ml×3). The extract was washed successively with water (300 ml×3) and saturated aqueous sodium chloride solution (200 ml×2), dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to afford the crude product. The crude product was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (5:1-1:2) as the eluent to afford the title compound (6.78 g, yield: 30%) as a colorless solid.

reactant | sodium hydride | 239 mmol, 5.74 g | [H-].[Na+]
reactant | 2,4-dihydroxybenzaldehyde | 109 mmol, 15.0 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | N,N-dimethylcarbamoyl chloride | 110 mmol, 10.1 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | water | 300 ml | O | H2O
product | 4-Formyl-3-hydroxy-phenyl dimethylcarbamate | 6.78 g, yield: 30% | CN(C(OC1=CC(=C(C=C1)C=O)O)=O)C | C10H11NO4
